US07132539B2
Preparation of {1-[2-[2-cyclopropylmethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-3-oxo-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethylcarbamoyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester (19):
To a solution of 2-{4-[2-amino-3-(4-fluorophenyl)-propionyl]-3-cyclopropylmethyl-2-oxo-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propionamide, 18, (44 mg, 0.068 mmol) in DMF (1 mL) are added 2-tert-butoxycarbonylamino-2-methyl-propionic acid (44 mg, 0.079 mmol), 1-hydroxybenzotriazole (20 mg, 0.148 mmol), N-methylmorpholine (41 mg, 0.41 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (16 mg, 0.083 mmol) consecutively. The reaction mixture is stirred for 3 hours, quenched with aqueous NH4Cl and extracted several times with ethyl acetate. The combined extracts are dried over Na2SO4, filtered and concentrated in vacuo to a residue which is purified over silica gel (CH2Cl2/CH3OH, 13:1) to afford 45 mg (93% yield) of the desired product. MS (ESMS) m/z 716.3 (M+H)+.

reactant | 2-{4-[2-amino-3-(4-fluorophenyl)-propionyl]-3-cyclopropylmethyl-2-oxo-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propionamide | NC(C(=O)N1C(C(N(CC1)C(C(=O)NC)CC1=CC2=CC=CC=C2C=C1)=O)CC1CC1)CC1=CC=C(C=C1)F | C31H35FN4O3
reactant | 2-tert-butoxycarbonylamino-2-methyl-propionic acid | 0.079 mmol, 44 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)(C)C | C9H17NO4
reactant | 1-hydroxybenzotriazole | 0.148 mmol, 20 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 0.41 mmol, 41 mg | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.083 mmol, 16 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | {1-[2-[2-cyclopropylmethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-3-oxo-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethylcarbamoyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester | 45 mg, 93% yield | C(C)(C)(C)OC(NC(C)(C)C(NC(C(=O)N1C(C(N(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)=O)CC1CC1)CC1=CC=C(C=C1)F)=O)=O | C40H50FN5O6
